US06197960B1
To 1 g of ethyl cyanoacetate dissolved in 5 mL of N,N-dimethylformamide, 0.5 g of sodium hydride was added under cooling with ice, and after stirring at room temperature for 30 minutes, 1.5 g of ethyl p-fluorophenylcinnamate was added. The reaction mixture was stirred at room temperature for 4 hours. After addition of ethanol under cooling with ice, the reaction mixture was poured into iced water and extracted with a solvent mixture of hexane and ethyl acetate. The extract was washed with water, and dried and concentrated. The resulting oily substance was separated by silica gel column chromatography (hexane:ethyl acetate=9:1) to obtain 1.8 g of diethyl 2-cyano-3-(p-fluorophenyl)glutarate as a diastereomer mixture.

reactant | ethyl cyanoacetate | 1 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | ethyl p-fluorophenylcinnamate | 1.5 g | FC1=CC=C(C=C(C(=O)OCC)C2=CC=CC=C2)C=C1 | C17H15FO2
reactant | ethanol | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | diethyl 2-cyano-3-(p-fluorophenyl)glutarate | 1.8 g | C(#N)C(C(=O)OCC)C(CC(=O)OCC)C1=CC=C(C=C1)F | C16H18FNO4
